US06117875
A mixture of 3-[(E)-2-(6-acetamido-3-pyridyl)vinyl]nitrobenzene (3.0 g), iron powder (1.48 g) and ammonium chloride (0.57 g), ethanol (30 ml) and water (9 ml) was stirred under reflux for 5 hours. The reaction was filtered, concentrated and extracted with chloroform. The extracts were chromatographed on silica gel (20 g, chloroform-methanol 100:1 as eluent) to give an oil. Crystallization from methanol afforded 3-[(E)-2-(6-acetamido-3-pyridyl)vinyl]aniline (2.4 g).

reactant | 3-[(E)-2-(6-acetamido-3-pyridyl)vinyl]nitrobenzene | 3.0 g | C(C)(=O)NC1=CC=C(C=N1)/C=C/C=1C=C(C=CC1)[N+](=O)[O-] | C15H13N3O3
reactant | ammonium chloride | 0.57 g | [Cl-].[NH4+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 1.48 g | [Fe] | Fe
solvent | water | 9 ml | O | H2O
product | 3-[(E)-2-(6-acetamido-3-pyridyl)vinyl]aniline | 2.4 g | C(C)(=O)NC1=CC=C(C=N1)/C=C/C=1C=C(N)C=CC1 | C15H15N3O
